US07462629B2
To a solution of crude 3-{6-[3-(2-trifluoromethyl-biphenyl-4-yl)-[1,2,4]oxadiazol-5-yl]-3,4-dihydro-1H-isoquinolin-2-yl}-propionic acid tert-butyl ester in CH2Cl2 (1 mL) is added TFA(1 mL). The mixture is stirred at room temperature for an hour. All the solvents are evaporated. The mixture is purified by reverse phase preparative LC/MS to give 3-{6-[3-(2-Trifluoromethyl-biphenyl-4-yl)-[1,2,4]oxadiazol-5-yl]-3,4-dihydro-1H-isoquinolin-2-yl}-propionic acid: 1H NMR (DMSO, 400 MHz) δ 8.52 (s, 1H), 8.38 (d, 1H), 8.15 (s, 1H), 8.10 (d, 1H), 7.68 (d, 1H), 7.50 (m, 4H), 7.38 (m, 2H), 3.20-3.50 (m, 8H), 2.92 (t, 2H), MS (ES+): (494.10, M+1)+.

reactant | 3-{6-[3-(2-trifluoromethyl-biphenyl-4-yl)-[1,2,4]oxadiazol-5-yl]-3,4-dihydro-1H-isoquinolin-2-yl}-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN1CC2=CC=C(C=C2CC1)C1=NC(=NO1)C1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)=O | C31H30F3N3O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-{6-[3-(2-Trifluoromethyl-biphenyl-4-yl)-[1,2,4]oxadiazol-5-yl]-3,4-dihydro-1H-isoquinolin-2-yl}-propionic acid | FC(C1=C(C=CC(=C1)C1=NOC(=N1)C=1C=C2CCN(CC2=CC1)CCC(=O)O)C1=CC=CC=C1)(F)F | C27H22F3N3O3
